US08378107B2
Step 5: {3-[3-(Benzyloxycarbonylamino-methyl)-pyridin-2-yl]-4-methoxy-phenyl}-acetic acid methyl ester
[3-(3-Aminomethyl-pyridin-2-yl)-4-methoxy-phenyl]-acetic acid methyl ester (0.140 g, 0.49 mmol) and triethylamine (0.17 mL, 1.23 mmol) was dissolved in CH2Cl2 (5 mL). Benzyl chloroformate (0.08 mL, 0.54 mmol) was added, and the reaction was stirred for 1 hour. Once no starting material was seen by analytical LCMS, the mixture was purified by preparative HPLC to give the title compound.

reactant | [3-(3-Aminomethyl-pyridin-2-yl)-4-methoxy-phenyl]-acetic acid methyl ester | 0.49 mmol, 0.140 g | COC(CC1=CC(=C(C=C1)OC)C1=NC=CC=C1CN)=O | C16H18N2O3
reactant | triethylamine | 1.23 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | Benzyl chloroformate | 0.54 mmol, 0.08 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | {3-[3-(Benzyloxycarbonylamino-methyl)-pyridin-2-yl]-4-methoxy-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)C1=NC=CC=C1CNC(=O)OCC1=CC=CC=C1)=O | C24H24N2O5
